US07851473B2
4-(4-Phenyl-1,3-thiazol-2-yl)-N-{4-[(trifluoroacetyl)amino]phenyl}piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl {4-[(trifluoroacetyl)amino]phenyl}carbamate (200 mg, 0.527 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (129 mg, 0.527 mmol), diisopropylethylamine (0.184 ml, 1.05 mmol) and dimethyl sulfoxide (4 ml) was stirred at 70° C. for 24 hours, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from ethyl acetate to give 100 mg (39.8%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl {4-[(trifluoroacetyl)amino]phenyl}carbamate | 0.527 mmol, 200 mg | FC(C(=O)NC1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O)(F)F | C11H8Cl3F3N2O3
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.527 mmol, 129 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 1.05 mmol, 0.184 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-{4-[(trifluoroacetyl)amino]phenyl}piperazine-1-carboxamide | 100 mg, 39.8% | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)NC(C(F)(F)F)=O | C22H20F3N5O2S
